US07622583B2
4-tert-Butyl-N-(5-chloro-2-phenoxy-pyridin-3-yl)-benzenesulfonamide
A 5 mL pear-shaped flask was charged with N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide (134 mg, 0.30 mmol), phenol (85 mg, 0.90 mmol), potassium carbonate (250 mg, 18.0 mmol), and DMA (0.9 mL). The heterogeneous solution was heated to 150° C. and stirred overnight. The crude reaction mixture was subsequently purified via reverse phase HPLC (Column: Varian Dynamax 250×21.4 mm Microsorb100-8 C18, 0.1% TFA/H2O (Eluent A): 0.1% TFA/MeCN (Eluent B)): 1H NMR (400 MHz, CDCl3) δ 7.95 (d, 1 H), 7.75 (d, 1 H), 7.72 (d, 2H), 7.48 (d, 2H), 7.28-7.34 (m, 2H), 7.17-7.21 (m, 1 H), 7.05 (bs, 1 H), 6.71-6.76 (m, 2H), 1.34 (s, 9H); MS (ES) M+H expect 417.1, found 417.4.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide | 0.30 mmol, 134 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)COC)Cl | C17H20BrClN2O3S
reactant | phenol | 0.90 mmol, 85 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 18.0 mmol, 250 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 0.9 mL | CC(=O)N(C)C | C4H9NO
product | 4-tert-Butyl-N-(5-chloro-2-phenoxy-pyridin-3-yl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)OC1=CC=CC=C1 | C21H21ClN2O3S
